US04371736
2,2'-[1,2-Phenylenebis(oxy)]bis[5-chloropyridine]
A mixture of 3.0 grams (0.027 mole) catechol and 9.0 grams (0.06 mole) 2,5-dichloropyridine was heated as a melt under nitrogen for 7 hours at 175° followed by heating at 200° for 5 hours. The black residue was dissolved in a minimum amount of methylene chloride and chromatographed through a silica gel column using methylene chloride as the eluent. From the initial fractions, the desired product was isolated. Yield 1.5 g, m.p. 82°-84°; NMR (CDCl3): δ6.70 (d, 2H, ArH), 7.30 (s, 4H, ArH), 7.60 (AB quartet, 2H, ArH), 8.05 (d, 2H, ArH); ir (Nujol): 6.30 (C=N), 9.90, 11.95, 13.10 microns.

reactant | catechol | 0.027 mole, 3.0 grams | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | 2,5-dichloropyridine | 0.06 mole, 9.0 grams | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,2'-[1,2-Phenylenebis(oxy)]bis[5-chloropyridine] | C1(=C(C=CC=C1)OC1=NC=C(C=C1)Cl)OC1=NC=C(C=C1)Cl | C16H10Cl2N2O2
